US04031093
Ethyl 1,6-dihydro-6-oxo-2-(5-methoxy-2-n-propoxyphenyl)-pyrimidine-5-carboxylate
The title compound was prepared from 5-methoxy-2-n-propoxybenzamidine hydrochloride in a manner similar to that described for the preparation of ethyl 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carboxylate in Example 8. The product had m.p. 124°-126°.

reactant | 5-methoxy-2-n-propoxybenzamidine hydrochloride | Cl.COC=1C=CC(=C(C(=N)N)C1)OCCC
reactant | ethyl 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC=C)C(=O)OCC | C16H16N2O4
product | Ethyl 1,6-dihydro-6-oxo-2-(5-methoxy-2-n-propoxyphenyl)-pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC(=C1)OC)OCCC)C(=O)OCC | C17H20N2O5
